US06610688B2
According to Scheme 5, cesium carbonate (968 mg, 3 mmol) followed by methyl iodide (1 g, 7.1 mmol) was added to a solution of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (121 mg, 0.79 mmol) in DMF (5 mL). The mixture was stirred at room temperature for 6 hours. The reaction was poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried, concentrated and column chromatographed to give 116 mg (88%) of 4-chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine as a white solid. 1H NMR (360 MHz, DMSO-d6) 8.62 (s, 1H), 7.71 (s, 1H), 6.62 (s, 1H), 3.84 (s, 3H, CH3).

reactant | cesium carbonate | 3 mmol, 968 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 7.1 mmol, 1 g | CI | CH3I
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 0.79 mmol, 121 mg | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine | 116 mg, 88% | ClC=1C2=C(N=CN1)N(C=C2)C | C7H6ClN3
